US05514691
3-Chloro-2,5-dimethyl-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide was prepared from 5-amino-4-bromo-3-methylisoxazole and 3-chloro-2,5-dimethylbenzenesulfonyl chloride according to the procedures described in Example 5. The crude product was purified by recrystallization from ethyl acetate/hexanes to give a crystalline solid, m.p. 148°-150° C., yield 71%.

reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
reactant | 3-chloro-2,5-dimethylbenzenesulfonyl chloride | ClC=1C(=C(C=C(C1)C)S(=O)(=O)Cl)C | C8H8Cl2O2S
product | 3-Chloro-2,5-dimethyl-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide | yield 71% | ClC=1C(=C(C=C(C1)C)S(=O)(=O)NC1=C(C(=NO1)C)Br)C | C12H12BrClN2O3S
